US06329550B1
2.2 Synthesis of N,N′-diphenethyl-2-((S)-2-thioacetyl-3-phenylpropionylamino)malonamide
Prepare by the method of Example 1.4 using N,N′-diphenethyl-2-((R)-2-bromo-3-phenylpropionylamino)malonamide (0.11 g, 0.21 mmol), thioacetic acid (0.05 mL, 0.62 mmol), and cesium carbonate (0.10 g, 0.31 mmol) in dimethylformamide (8 mL). Purify by chromatography on silica gel eluting with 1/1 hexane ethyl acetate to give the title compound (92%).

reactant | N,N′-diphenethyl-2-((R)-2-bromo-3-phenylpropionylamino)malonamide | 0.21 mmol, 0.11 g | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@@H](CC1=CC=CC=C1)Br)=O)=O | C28H30BrN3O3
reactant | thioacetic acid | 0.62 mmol, 0.05 mL | C(C)(=S)O | C2H4OS
reactant | cesium carbonate | 0.31 mmol, 0.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | N,N′-diphenethyl-2-((S)-2-thioacetyl-3-phenylpropionylamino)malonamide | 92% | C(CC1=CC=CC=C1)NC(C(C(=O)NCCC1=CC=CC=C1)NC([C@H](CC1=CC=CC=C1)C(C)=S)=O)=O | C30H33N3O3S
